US05338739
To a stirred solution of 5-(3-methoxyphenyl)-2-pyrrolidinone (5.00 g) and tetrahydrofuran (260 ml), at ambient temperature, under nitrogen, was added lithium aluminum hydride (39.3 ml, 1M in tetrahydrofuran). The mixture was heated under reflux for 6 hrs, cooled to ambient temperature, and aqueous tetrahydrofuran was added slowly. The suspension was concentrated, and the residue was dissolved in dilute aqueous sulfuric acid. The solution was made basic (pH 12) by the slow addition of aqueous sodium hydroxide solution. The mixture was extracted with dichloromethane (3 times) and ether (1 time). The combined organic extracts were washed with brine, dried over anhydrous potassium carbonate, filtered, and the filtrate was concentrated to give 2-(3-methoxyphenyl)pyrrolidine.

reactant | 5-(3-methoxyphenyl)-2-pyrrolidinone | 5.00 g | COC=1C=C(C=CC1)C1CCC(N1)=O | C11H13NO2
reactant | lithium aluminum hydride | 1M, 39.3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
product | 2-(3-methoxyphenyl)pyrrolidine | COC=1C=C(C=CC1)C1NCCC1 | C11H15NO
